US07115611B2
In analogy to the procedures described in examples 8A] and 31B], 3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester (example 73A]) was reacted with [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 17C]) to give [rac]-3-(3-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenyl)-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | 3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC(=C(C=C1)O)C)=O | C12H16O3
reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13ClF3N
product | [rac]-3-(3-methyl-4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC(=C(C=C1)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C27H28F3NO3
